US08541457B2
Synthesis of N-Benzyl-2-(4-benzylbenzamido)-4-((methylamino)methyl)thiazole-5-carboxamide
Following the procedure as described in Example 22, making variation only as required to use 2-amino-N-benzyl-4-((methylamino)methyl)thiazole-5-carboxamide in place of 2-amino-N-benzyl-4-((diethylamino)methyl)thiazole-5-carboxamide to react with 4-benzylbenzoic acid, the title compound was obtained; 1H NMR (CD3OD, 400 MHz) δ 7.93 (d, J=8.6 Hz, 2H), 7.35-7.15 (m, 12H), 4.49 (s, 2H), 4.06 (s, 2H), 4.02 (s, 2H), 3.09 (s, 2H), 2.37 (s, 3H); MS (ES+) m/z 471 (M+1).

reactant | 2-amino-N-benzyl-4-((methylamino)methyl)thiazole-5-carboxamide | NC=1SC(=C(N1)CNC)C(=O)NCC1=CC=CC=C1 | C13H16N4OS
reactant | 4-benzylbenzoic acid | C(C1=CC=CC=C1)C1=CC=C(C(=O)O)C=C1 | C14H12O2
product | N-Benzyl-2-(4-benzylbenzamido)-4-((methylamino)methyl)thiazole-5-carboxamide | C(C1=CC=CC=C1)NC(=O)C1=C(N=C(S1)NC(C1=CC=C(C=C1)CC1=CC=CC=C1)=O)CNC | C27H26N4O2S
